US06936608B2
To N,N-diisopropylamine (4.06 ml, 2.93 g, 29.0 mmol) in THF (20 ml) was added n-butyllithium (11.6 ml of a 2.5 M solution in hexanes; 29.0 mmol) dropwise, maintaining the temperature of the mixture below 5° C. throughout the addition. The resulting solution was stirred at 0° C. for 15 min, and was then added dropwise to a solution of 2,2-difluoropropionic acid ethyl ester (prepared according to the procedure described in U.S. Pat. No. 5,859,051) (2.00 g, 14.5 mmol) and dibromomethane (2.02 ml, 5.04 g, 29.0 mmol) in THF (20 ml) over 30 min with stirring, maintaining the temperature of the mixture below −60° C. throughout the addition. The solution was stirred for 15 min at −78° C. under nitrogen, and was then quenched by the addition of 5 N hydrochloric acid (10 ml). The mixture was allowed to warm to room temperature, and was diluted with water (10 ml). The aqueous phase was separated and washed with diethyl ether (2×30 ml). The combined organic layers were dried over magnesium sulfate, and concentrated in vacuo. The residual oil was purified by flash chromatography on silica gel, eluting with 10% to 20% diethyl ether in 40-60 petroleum ether (UV detection), yielding 1,1-dibromo-3,3-difluorobutan-2-one as a yellow oil (1.65 g, 43%): 1H NMR (360 MHz, CDCl3) δ 1.90 (3H, t, J 19.2 Hz), 6.39 (1H, s).

reactant | N,N-diisopropylamine | 29.0 mmol, 4.06 ml, 2.93 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,2-difluoropropionic acid ethyl ester | C(C)OC(C(C)(F)F)=O | C5H8F2O2
reactant | dibromomethane | 29.0 mmol, 2.02 ml, 5.04 g | BrCBr | CH2Br2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1,1-dibromo-3,3-difluorobutan-2-one | 1.65 g, 43% | BrC(C(C(C)(F)F)=O)Br | C4H4Br2F2O
